US07671068B2
24. N—((S)-2-Benzyloxy-1-methyl-ethyl)-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-benzamide
Prepared from 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid and N—((S)-2-benzyloxy-1-methyl-ethyl)-amine as described for example 1.

reactant | 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)O)C=C2)C=C1OC | C23H26N2O4
reactant | N—((S)-2-benzyloxy-1-methyl-ethyl)-amine | C(C1=CC=CC=C1)OC[C@H](C)N | C10H15NO
product | N—((S)-2-Benzyloxy-1-methyl-ethyl)-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-benzamide | C(C1=CC=CC=C1)OC[C@H](C)NC(C1=CC=C(C=C1)C1=N[C@@H]2CCN(C[C@@H]2C2=C1C=C(C(=C2)OCC)OC)C)=O | C33H39N3O4
